US04859229
A solution of 10.5 g of ethyl 3-amino-4,4,4-trifluorocrotonate in 25 ml of absolute dimethylformamide is added dropwise while stirring at 0° C. during 5 minutes to a suspension of 2.5 g of a 55% sodium hydride dispersion in 25 ml of absolute dimethylformamide. The temperature rises to 20° C. and the mixture is subsequently stirred at this temperature for 30 minutes. Thereafter, 14.4 g of ethyl N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-carbamate are added, and the mixture is stirred at room temperature for 30 minutes and heated at 150° C. (bath temperature) for 2.5 hours. The reaction mixture is cooled to 50° C., neutralized with 3.5 ml of concentrated acetic acid and largely concentrated at 60° C. under reduced pressure. The residue is poured into a solution of 200 ml of water and 30 ml of 2N hydrochloric acid and the aqueous mixture is extracted twice with 150 ml of diethyl ether each time, and the organic phases are washed twice with 50 ml of water each time, dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is recrystallized from diethyl ether-n-hexane. There is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione, m.p. 195°-197° C.

reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 10.5 g | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | sodium hydride | [H-].[Na+]
reactant | ethyl N-(4-chloro-2-fluoro-5-isopropoxyphenyl)-carbamate | 14.4 g | ClC1=CC(=C(C=C1OC(C)C)NC(OCC)=O)F | C12H15ClFNO3
reactant | acetic acid | 3.5 ml | C(C)(=O)O | C2H4O2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C14H11ClF4N2O3
